US05227454
c) Preparation of 2-(p-hydroxyphenyl)-6-hydroxybenzothiazole
20 g of 2-(p-methoxyphenyl)-6-methoxybenzothiazole are refluxed in a mixture of 100 ml of glacial acetic acid and 200 ml of concentrated aqueous HBr with stirring. After 14 hours the mixture is cooled down to room temperature and filtered with suction, and the filter residue is washed with water and recrystallized from ethanol. The yield is 17.2 g (95% of theory); melting point: 284°-286° C.

reactant | 2-(p-methoxyphenyl)-6-methoxybenzothiazole | 20 g | COC1=CC=C(C=C1)C=1SC2=C(N1)C=CC(=C2)OC | C15H13NO2S
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | HBr | 200 ml | Br | BrH
product | 2-(p-hydroxyphenyl)-6-hydroxybenzothiazole | OC1=CC=C(C=C1)C=1SC2=C(N1)C=CC(=C2)O | C13H9NO2S
